US09290506B2
Method A. To a 50 mL round bottom flask equipped with a stir bar and the nitrogen inlet was charged (R)-(4-(1-(3-amino-1-cyclopentyl-3-oxopropyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate ((R)-11, 413 mg, 0.942 mmol), N,N-dimethylformamide (DMF, 10 mL, 129 mmol) and triethylamine (TEA, 0.525 mL, 3.77 mmol, 4.0 equiv) at room temperature. The resulting mixture was then cooled to 0-5° C. in an ice bath before trichloroacetyl chloride (0.315 mL, 2.82 mmol, 3.0 equiv) was added drop wise via a syringe at room temperature. The resulting reaction mixture was stirred at 0-5° C. for 90 min. When TLC and HPLC showed that the reaction was deemed complete, the reaction mixture was treated with ethyl acetate (EtOAc, 25 mL) and 20% aqueous brine (20 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (EtOAc, 2×25 mL). The combined organic extracts were washed with 20% aqueous brine (35 mL), dried over magnesium sulfate (MgSO4), filtered, and concentrated under reduced pressure. The residual brown oily crude product was purified by flash chromatography (SiO2, 0 to 50% ethyl acetate/hexane gradient elution) to afford (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate ((R)-12, 278 mg, 396.1 mg theoretical, 70.2% yield) as the light oil, which was solidified upon standing at room temperature in vacuum. For (R)-12: achiral purity (99.1 area % by HPLC detected at 220 nm); chiral purity (99.6 area % by chiral HPLC; 99.2% ee); 1H NMR (DMSO-d6, 400 MHz) δ ppm 8.84 (s, 1H), 8.78 (s, 1H), 8.39 (s, 1H), 7.74 (d, 1H, J=3.7 Hz,), 7.11 (d, 1H, J=3.8 Hz), 6.23 (s, 2H), 4.53 (ddd, 1H, J=9.9, 9.6, 4.2 Hz), 3.26 (dd, 1H, J=17.4, 9.9 Hz), 3.19 (dd, 1H, J=17.2, 4.3 Hz), 2.41 (m, 1H), 1.87-1.13 (m, 8H), 1.07 (s, 9H); C23H28N6O2 (MW, 420.51), LCMS (EI) m/e 421.4 (M++H).

reactant | (R)-(4-(1-(3-amino-1-cyclopentyl-3-oxopropyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 0.942 mmol, 413 mg | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC(=O)N)C2CCCC2 | C23H30N6O3
reactant | N,N-dimethylformamide | 129 mmol, 10 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 3.77 mmol, 0.525 mL, 4.0 equiv | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 2.82 mmol, 0.315 mL, 3.0 equiv | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (R)-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl pivalate | 278 mg, 70.2% yield | C(C(C)(C)C)(=O)OCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@H](CC#N)C2CCCC2 | C23H28N6O2
